US07557114B2
(a) 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
A mixture containing 5.03 mmol 5-Bromo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (CAS: 201940-08-1), 16.6 mmol potassium carbonate, 5.5 mmol bis(pinacolato)diboron and 0.15 mmol 1,1-bis(diphenylphosphino)ferrocene dichloro palladium (II) dichloromethane adduct in 15 ml deglazed DMF was stirred at 70° C. for 6 hours. The solvent was removed in vacuo. The residue was stirred in 30 ml dichloromethane. The mixture was filtered and the filtrate concentrated in vacuo. The crude oil was purified on a 50 g Flashpack cartridge (Eluent: Heptane/AcOEt) to afford the title compound as a white solid (63% yield). MS (m/e): 346.1 ([M+H]+, 100%)

reactant | 5-Bromo-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 5.03 mmol | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)Br | C13H16BrNO2
reactant | potassium carbonate | 16.6 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | bis(pinacolato)diboron | 5.5 mmol | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 63% yield | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)B1OC(C(O1)(C)C)(C)C | C19H28BNO4
